US07807673B2
Step A: [2-(Methylsulfonyl)ethyl][(3-nitrophenyl)methyl]amine
A solution of 3-nitrobenzylamine hydrochloride (1.0 g, 5.3 mmol) in DCM was converted to the free base by treating with 2 N NaOH. The organic layer was separated and concentrated, and the residue was redissolved in MeOH. To this solution was added methylvinylsulfone (232 μL, 2.6 mmol), and the reaction was stirred at rt. After 5 h, the crude reaction mixture was adsorbed onto silica gel and purified by column chromatography to generate the title compound in quantitative yield. 1H NMR (400 MHz, CDCl3) δ 8.21 (s, 1H), 8.13 (d, J=8.2 Hz, 1H), 7.67 (d, J=7.5 Hz, 1H), 7.51 (t, J=7.9 Hz, 1H), 3.93 (s, 2H), 3.16-3.24 (m, 4H), 3.01 (s, 3H). ES-LC/MS m/z=259 [M+H]+.

reactant | 3-nitrobenzylamine hydrochloride | 5.3 mmol, 1.0 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | NaOH | 2 N | [OH-].[Na+]
reactant | methylvinylsulfone | 2.6 mmol, 232 μL | CS(=O)(=O)C=C | C3H6O2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | [2-(Methylsulfonyl)ethyl][(3-nitrophenyl)methyl]amine | quantitative yield | CS(=O)(=O)CCNCC1=CC(=CC=C1)[N+](=O)[O-] | C10H14N2O4S
